US04001419
A solution of 4-acetoxy-1'-benzylxanthene-9-spiro-4'-piperidine hydrochloride (13.5 g.) in ethanol (200 ml.) is hydrogenated using 5% w/w palladium-on-carbon catalyst, at 1 atmosphere and 25° C. The catalyst is filtered off and the solvent evaporated to dryness. The residue is crystallised from ethanol-ether to give 4-acetoxyxanthene-9-spiro-4'-piperidine hydrochloride, m.p. 162°-165° C.

reactant | 4-acetoxy-1'-benzylxanthene-9-spiro-4'-piperidine hydrochloride | 13.5 g | Cl.C(C)(=O)OC1=CC=CC2=C1OC1=CC=CC=C1C21CCN(CC1)CC1=CC=CC=C1
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 4-acetoxyxanthene-9-spiro-4'-piperidine hydrochloride | Cl.C(C)(=O)OC1=CC=CC2=C1OC1=CC=CC=C1C21CCNCC1 | InChI=1S/C19H19NO3.ClH/c1-13(21)22-17-8-4-6-15-18(17)23-16-7-3-2-5-14(16)19(15)9-11-20-12-10-19;/h2-8,20H,9-12H2,1H3;1H
